US05360802
Step 2: 3(R,S)-Amino-5-cyclopentyl-1,3-dihydro-1-propyl-2H-1,4-benzodiazepin-2-one
To 5-cyclopentyl-1,3-dihydro-1-propyl-3(R,S)-[(benzyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-one (507 mg, 1.21 mmol) was added 45% hydrobromic acid in acetic acid (1 ml) and the mixture stirred at room temperature for 2 h. Anhydrous ether (10 ml) was then added and the mixture was stirred for 1.5 h before removing the solvent by pipette. The resulting solid was washed with more ether, filtered off and washed again with ether, before partitioning between dichloromethane (30 ml) and 2N sodium hydroxide solution (30 ml). The aqueous layer was re-extracted with more dichloromethane (2×30 ml), the organic extracts combined, dried (Na2SO4) and evaporated to leave the title compound (333 mg, 96%) as a colourless oil. 1H NMR (360 MHz, CDCl3) δ 0.81 (3H, t, J=7.4 Hz), 1.25-1.94 (9H, m); 2.16 (1H, m), 3.29 (1H, m), 3.56 (1H, m), 4.28 (1H, s), 4.30 (1H, m), 7.24 (1H, t, J=7.3 Hz), 7.31 (1H, d, J=7.9 Hz), 7.46 (1H, t of d, J=7.8 and 1.5 Hz), 7.53 (1H, dd, J=7.8 and 1.4 Hz).

reactant | 5-cyclopentyl-1,3-dihydro-1-propyl-3(R,S)-[(benzyloxycarbonyl)amino]-2H-1,4-benzodiazepin-2-one | 1.21 mmol, 507 mg | C1(CCCC1)C1=NC(C(N(C2=C1C=CC=C2)CCC)=O)NC(=O)OCC2=CC=CC=C2 | C25H29N3O3
reactant | hydrobromic acid | Br | BrH
reactant | ether | 10 ml | CCOCC | C4H10O
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 3(R,S)-Amino-5-cyclopentyl-1,3-dihydro-1-propyl-2H-1,4-benzodiazepin-2-one | 333 mg, 96% | NC1C(N(C2=C(C(=N1)C1CCCC1)C=CC=C2)CCC)=O | C17H23N3O
